US07572820B2
2-[5-Cyano-2-methyl-4-(trifluoromethyl)-1H-indol-1-yl]acetamide
Synthesized as described in Example 4 using 2-methyl-4-(trifluoromethyl)-1H-indole-5-carbonitrile and 2-bromoacetamide: 1H NMR (400 MHz, DMSO-d6) δ 7.82 (d, J=8.5 Hz, 1H), 7.71 (bs, 1H), 7.67 (d, J=8.5 Hz, 1H), 7.35 (bs, 1H), 6.55 (s, 1H), 4.89 (s, 2H), 2.39 (s, 3H); MS (ES) m/z 282 (M+1).

reactant | 2-methyl-4-(trifluoromethyl)-1H-indole-5-carbonitrile | CC=1NC2=CC=C(C(=C2C1)C(F)(F)F)C#N | C11H7F3N2
reactant | 2-bromoacetamide | BrCC(=O)N | C2H4BrNO
product | 2-[5-Cyano-2-methyl-4-(trifluoromethyl)-1H-indol-1-yl]acetamide | C(#N)C=1C(=C2C=C(N(C2=CC1)CC(=O)N)C)C(F)(F)F | C13H10F3N3O
